US08710256B2
Preparation of (S)-2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid
A 50 mL three-necked round bottom flask equipped with magnetic stirrer, and thermocouple was charged under nitrogen with (S)-2-tert-butoxycarbonylamino-3-(4-cyano-2,6-dimethyl-phenyl)-propionic acid methyl ester (166.2 mg, 0.5 mmol), DMSO (5.0 mL), and K2CO3 (75 mg, 0.5 mmol) and the resulting mixture cooled in an ice bath. To the resulting mixture was then added 30% H2O2 (110 μl), dropwise via a syringe. The resulting mixture was then allowed to warm up to ambient temperature, with the solids observed to dissolve to yield a clear solution. After stirring for about 2 hours at 45-50° C., water (10 mL) was added, cooling was applied, and a precipitated product isolated by filtration. The isolated white solid was washed with water (2×25 mL), then dried for 24 hours on high vacuum pump to yield the title compound as a white solid.

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-cyano-2,6-dimethyl-phenyl)-propionic acid methyl ester | 0.5 mmol, 166.2 mg | COC([C@H](CC1=C(C=C(C=C1C)C#N)C)NC(=O)OC(C)(C)C)=O | C18H24N2O4
reactant | DMSO | 5.0 mL | CS(=O)C | C2H6OS
reactant | K2CO3 | 0.5 mmol, 75 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 110 μl | OO | H2O2
solvent | water | 10 mL | O | H2O
product | (S)-2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=C(C=C(C=C1C)C(N)=O)C | C17H24N2O5
